US07576080B2
Diisopropyl azodicarboxylate (0.040 g, 0.20 mmol) was added to a mixture of 5-hydroxynicotinic acid methyl ester (0.038 g, 0.25 mmol), 4-[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]butan-1-ol (0.060 g, 0.20 mmol), triphenylphosphine (0.052 g, 0.20 mol) and tetrahydrofuran (3.0 mL) at room temperature with stirring. After 16 h, the solvent was removed in vacuo. The residue was diluted with ethyl acetate (50 mL) and washed with sodium bicarbonate (1×40 mL). The organic solution was concentrated and purified by column chromatography (1.5-5% methanol/dichloromethane) to give 7 mg (8%) methyl 5-4-[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]butoxynicotinate as white solid. MS [M+H]=438.1, LC/MS (EI) tR 4.63 min (Method D), 1H NMR (CDCl3) δ (ppm) 9.02 (s, 1H), 8.82 (s, 1H), 8.38 (s, 1H), 7.68 (s, 1H), 7.42-7.35 (m, 2H), 7.34 (s, 1H), 7.20-7.10 (m, 2H), 3.97 (s, 3H), 3.88 (t, J=6.3 Hz, 2H), 2.72 (t, J=7.2 Hz, 2H), 1.81-1.66 (m, 2H), 1.66-1.53 (m, 2H).

reactant | Diisopropyl azodicarboxylate | 0.20 mmol, 0.040 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 5-hydroxynicotinic acid methyl ester | 0.25 mmol, 0.038 g | COC(C1=CN=CC(=C1)O)=O | C7H7NO3
reactant | 4-[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]butan-1-ol | 0.20 mmol, 0.060 g | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)CCCCO | C16H15FN2OS
reactant | triphenylphosphine | 0.20 mol, 0.052 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | methyl 5-4-[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]butoxynicotinate | 7 mg, 8% | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)CCCCOC=2C=NC=C(C(=O)OC)C2 | C23H20FN3O3S
